US09371321B2
Step C: tert-Butyl (S)-4-(5-(1-((5-cyano-6-ethyl-2-(methylsulfonyl)pyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate
To a 20 mL round-bottom flask were added (S)-tert-butyl 4-(5-(1-((5-cyano-6-ethyl-2-(methylthio)pyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate (78 mg, 0.145 mmol) in acetonitrile (1.5 mL) and water (1.5 mL) along with OXONE® (223 mg, 0.363 mmol) at 0° C. The reaction mixture was allowed to stir for 30 minutes at 0° C. and then for 3.5 hours at room temperature. LCMS indicated the reaction was mostly complete. The reaction mixture was diluted with EtOAc and washed with brine (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated. The product was purified by column chromatography (ISCO 4 g, 30-100% EtOAc/hexane gradient) to give the title compound as a yellow oil. ESI-MS m/z [M+H]+ calc'd for C27H36N8O4S, 569. found 569.

reactant | (S)-tert-butyl 4-(5-(1-((5-cyano-6-ethyl-2-(methylthio)pyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate | 0.145 mmol, 78 mg | C(#N)C=1C(=NC(=NC1CC)SC)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCN(CC2)C(=O)OC(C)(C)C | C27H36N8O2S
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | water | 1.5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl (S)-4-(5-(1-((5-cyano-6-ethyl-2-(methylsulfonyl)pyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate | C(#N)C=1C(=NC(=NC1CC)S(=O)(=O)C)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCN(CC2)C(=O)OC(C)(C)C | C27H36N8O4S
